US07691882B2
3-(3-(6-(4-Fluoro-phenoxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a mixture of (6-(4-fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride (25 mg) described in Manufacturing Example 75-1-4 and tetrahydrofuran (1 mL) were added 3-ethynyl-pyridin-2,6-diamine (8 mg, 0.060 mmol) described in Manufacturing Example 13-1-3 and triethylamine (17 μL, 0.12 mmol), which was stirred for 5 hours at room temperature. Water was added to the reaction mixture at the same temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (8.7 mg, 38%).

reactant | (6-(4-fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride | 25 mg | FC1=CC=C(OC2=CC=C(C=N2)CC(=NO)Cl)C=C1 | C13H10ClFN2O2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.060 mmol, 8 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.12 mmol, 17 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(6-(4-Fluoro-phenoxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 8.7 mg, 38% | FC1=CC=C(OC2=CC=C(C=N2)CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C20H16FN5O2
